US09024027B2
To a solution of potassium 2-(2-methoxy-2-oxoethyl)-6-nitro-1,3-dioxoisoindolin-5-olate (0.380 g, 1.194 mmol) in DMF (10 ml), dimethyl sulfate (0.324 ml, 3.34 mmol) was added, and the mixture was heated at 60° C. for 6 hours and then stirred at 40° C. overnight. Additional dimethyl sulfate (0.116 ml, 1.194 mmol) was added, and the reaction mixture was heated at 60° C. for 4 hours. The mixture was partitioned between 1N NaHCO3 (150 ml) and diethyl ether (100 ml). The organic phase was washed with 1N NaHCO3 (100 ml), and the combined aqueous layers were extracted with diethyl ether (2×100 ml). The organic layers were mixed, washed twice with brine (2×100 ml) and dried over sodium sulfate; the solvent was removed under vacuum affording methyl 2-(5-methoxy-6-nitro-1,3-dioxoisoindolin-2-yl)acetate (0.225 g, 0.765 mmol, 64% yield). MS/ESI+ 294.9 [MH]+). This product was used without any further purification.

reactant | potassium 2-(2-methoxy-2-oxoethyl)-6-nitro-1,3-dioxoisoindolin-5-olate | 1.194 mmol, 0.380 g | COC(CN1C(C2=CC(=C(C=C2C1=O)[O-])[N+](=O)[O-])=O)=O.[K+]
reactant | dimethyl sulfate | 3.34 mmol, 0.324 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | dimethyl sulfate | 1.194 mmol, 0.116 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 2-(5-methoxy-6-nitro-1,3-dioxoisoindolin-2-yl)acetate | 0.765 mmol, 0.225 g, 64% yield | COC=1C=C2C(N(C(C2=CC1[N+](=O)[O-])=O)CC(=O)OC)=O | C12H10N2O7
